US06960598B2
5-Chloro-2-trifluoromethyl[1,8]naphthyridine (50 mg, 0.22 mmol) was coupled to 4-[5-(5,5-dimethyl[1,3,2]dioxaborinan-2-yl)-2-fluorobenzyl]morpholine (86 mg, 0.28 mmol) as described in Example 7 part g), affording 5-(4-fluoro-3-morpholin-4-ylmethylphenyl)-2-trifluoromethyl[1,8]naphthyridine (10 mg, 12%). δH (360 MHz, CDCl3) 2.54 (4H, t, J 4.2), 3.68 (2H, s), 3.71 (4H, t, J 4.4), 7.26 (1H, t, 8.8), 7.37 (1H, m), 7.55-7.58 (2H, m), 7.82 (1H, d, J 8.4), 8.49 (1H, d, J 8.4), 9.27 (1H, d, J 4.2). m/z (ES+) 392 [MH]+.

reactant | 5-Chloro-2-trifluoromethyl[1,8]naphthyridine | 0.22 mmol, 50 mg | ClC1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C9H4ClF3N2
reactant | 4-[5-(5,5-dimethyl[1,3,2]dioxaborinan-2-yl)-2-fluorobenzyl]morpholine | 0.28 mmol, 86 mg | CC1(COB(OC1)C=1C=CC(=C(CN2CCOCC2)C1)F)C | C16H23BFNO3
product | 5-(4-fluoro-3-morpholin-4-ylmethylphenyl)-2-trifluoromethyl[1,8]naphthyridine | 10 mg, 12% | FC1=C(C=C(C=C1)C1=C2C=CC(=NC2=NC=C1)C(F)(F)F)CN1CCOCC1 | C20H17F4N3O
